US05051508
2-Methyl-3-(2-chloroethyl)-4-chloro-8-methoxyquinoline (8.37 g, 31 mmol) and 2-methylaniline hydrochloride (4.45 g, 31 mmol) in 1-butanol (100 ml) were heated at reflux for 5 days, then the solvent evaporated, the crude product taken up in dichloromethane, washed with aqueous sodium bicarbonate, dried and evaporated. Chromatography (silica gel, 2% methanolic ammonia in dichloromethane) and recrystallisation from aqueous ethanol gave 1-(2-methylphenyl)-4-methyl-6-methoxy-2,3-dihydropyrrolo[3,2-c]quinoline (2.04 g, 22 %), m.p. 182°-183°.

reactant | 2-Methyl-3-(2-chloroethyl)-4-chloro-8-methoxyquinoline | 31 mmol, 8.37 g | CC1=NC2=C(C=CC=C2C(=C1CCCl)Cl)OC | C13H13Cl2NO
reactant | 2-methylaniline hydrochloride | 31 mmol, 4.45 g | Cl.CC1=C(N)C=CC=C1
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | 1-(2-methylphenyl)-4-methyl-6-methoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 2.04 g, 22 % | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OC)C | C20H20N2O
